US05736534
This material was conveniently prepared on multigram scale from the cyclization of 2,4-dichlorophenethylamine in the presence of Na2 CO3 (s) (1.2 mol eq), Cu2Cl2 (0.01 mol eq) and 8-hydroxyquinoline (0.012 mol eq) in isoamyl alcohol (1 vol) at 130° C. for 5 hours. After addition of hydrazine (0.0055 vol) and 1 hour reflux, the mixture was filtered, solvent was removed in vacuo (45° C. @ ~10 mm Hg) and 6-chloro-indoline was obtained pure by vacuum distillation (95°-100° C. @ 2 mm Hg)(65-95%).

reactant | 2,4-dichlorophenethylamine | ClC1=C(CCN)C=CC(=C1)Cl | C8H9Cl2N
reactant | 8-hydroxyquinoline | 0.012 mol | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | hydrazine | NN | H4N2
solvent | isoamyl alcohol | C(CC(C)C)O | C5H12O
product | 6-chloro-indoline | ClC1=CC=C2CCNC2=C1 | C8H8ClN
